US07825256B2
{3-[(3-Chloro-[1,2,4]thiadiazol-5-yl)-methyl-amino]-propyl}-carbamic acid tert-butyl ester (6.50 g, 21.2 mmol) was combined with imidazole (7.20 g, 105 mmol) and dissolved in DMSO (100 mL). Next, the sodium hydride (833 mg of a 60% dispersion on mineral oil, 57.8 mmol) was added the reaction mixture was stirred at 60° C. overnight. After this period, brine was added to the reaction mixture and it was transferred to a separatory funnel. The product was extracted with copious DCM and the organic layer was dried over anhydrous Na2SO4. The crude material was purified by flash silica chromatography (Hex to 1:4 Hex/EtOAc) to yield 6.78 g (94%) of {3-[(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-methyl-amino]-propyl}-carbamic acid tert-butyl ester as a clear oil. [M+H]+ 339.10.

reactant | {3-[(3-Chloro-[1,2,4]thiadiazol-5-yl)-methyl-amino]-propyl}-carbamic acid tert-butyl ester | 21.2 mmol, 6.50 g | C(C)(C)(C)OC(NCCCN(C)C1=NC(=NS1)Cl)=O | C11H19ClN4O2S
reactant | imidazole | 105 mmol, 7.20 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | [H-].[Na+]
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | {3-[(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-methyl-amino]-propyl}-carbamic acid tert-butyl ester | 6.78 g, 94% | C(C)(C)(C)OC(NCCCN(C)C1=NC(=NS1)N1C=NC=C1)=O | C14H22N6O2S
